US06740682B2
A solution of 4-biphenylcarboxaldehyde (4.6g 25 mmol), sodium cyanide (3.68 g 75 mmol) and ammonium carbonate (9.60 g 100 mmol) in 50% aqueous ethanol (175 ml) was heated at 50° C. for 20 hours. The reaction mixture was cooled, concentrated under reduced pressure and acidified to pH 2.0 with concentrated hydrochloric acid (fume hood). The intermediate 4-(4-phenylphenyl)-2,5-imidazolinedione was collected by filtration, washed with dilute (0.5%) HCl and dried before using as crude in the next stage. (Filtrates were retained and treated with sodium hypochlorite solution before disposal) The intermediate 4-(4-phenylphenyl)-2,5-imidazolinedione was refluxed in 16% aqueous sodium hydroxide (100 ml, 16% w/v) for 24 h. The reaction mixture was then filtered, cooled, diluted with water (100 ml) and then shaken with ethyl acetate and separated. The aqueous solution was adjusted to pH 5.1 with concentrated hydrochloric acid and the solid obtained collected by filtration, washed with a little water and dried to give 4-phenylphenylglycine (2.36 g, 42%). 1H nmr (d6 DMSO) consistent with desired product.

reactant | 4-biphenylcarboxaldehyde | 25 mmol, 4.6g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | sodium cyanide | 75 mmol, 3.68 g | [C-]#N.[Na+]
reactant | ammonium carbonate | 100 mmol, 9.60 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 4-phenylphenylglycine | 2.36 g, 42% | C1(=CC=CC=C1)C1=CC=C(C=C1)NCC(=O)O | C14H13NO2
